Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male w/PMH of COPD, gastritis w/H.pylori 
+, presenting with one week of right sided abdominal pain.
Patient reports pain is constant with no exacerbating factors. 
He
reports symptoms began one week ago. Denies worsening abdominal
pain with eating food. Reports he was taking prune juice
yesterday because he thought he had 'gas' and given the 
abdominal
pain was not resolving presenting to the ED. Unclear if he has
been having diarrhea in the past, however he had a normal bowel
movement yesterday. 

He was treated for H.pylori in ___, however he reports he
only took the medications once daily because the medications 
were
giving him constipation. He also reports having difficulty
swallowing last week, however that has improved.

Denies blood in stool, dysuria, chest pain, nausea/vomiting,
fevers. Denies recent international travel. 

Reports history of 'liver disease,' however is unclear what this
is, he was told he had this in the past.

In the ED, his vitals were 97.9, BP: 136/79, O2: 100%, HR: 107,
he was evaluated by surgery who did not believe he required
surgical intervention and given IV Cipro/IV Flagyl.

 
Past Medical History:
1) Esophagitis, gastritis, and H.pylori positive ___
Endoscopy ___:
Irregular Z line. Erythema and friability were noted at the GE
junction consistent with esophagitis. (biopsy)
Erythema, friability in the stomach compatible with gastritis
(biopsy)
Erythema, friability in the duodenal bulb compatible with
duodenitis
Otherwise normal EGD to third part of the duodenum
H.pylori positive ___
2) Pulmonary nodule
3) COPD
4) Seizure possibly related to alcohol use
5) Hx of right eye blurry vision (has not been seen by
ophthalmology)

 
Social History:
___
Family History:
-sister: HTN, hyperlipidemia
-Mother/father: unknown 
 
Physical Exam:
Physical Exam:
VS: 98.3, BP: 99/61, H: 71, RR: 18, O2: 96% RA
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, right eye injected, visual fields intact
Respiratory: minimal bibasilar crackles lower lungs, otherwise
CTA
Cardiovascular: NS1/S2, RRR
Gastrointestinal: soft, NABS, ND, TTP RUQ/RLQ, no
rebound/guarding
Extremities: no edema, +2 DP pulses
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: CN II-XII grossly intact, ___ strength in ___
Psychiatric: pleasant, appropriate affect
 
Pertinent Results:
___ 07:40AM BLOOD WBC-14.1*# RBC-5.59 Hgb-16.2 Hct-44.7 
MCV-80* MCH-29.0 MCHC-36.2 RDW-14.2 RDWSD-40.6 Plt ___
___ 07:40AM BLOOD Neuts-59.5 ___ Monos-9.5 Eos-2.5 
Baso-0.5 Im ___ AbsNeut-8.42* AbsLymp-3.91* AbsMono-1.34* 
AbsEos-0.36 AbsBaso-0.07
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-78 UreaN-11 Creat-1.0 Na-139 
K-4.4 Cl-99 HCO3-23 AnGap-21*
___ 07:40AM BLOOD ALT-30 AST-22 AlkPhos-64 TotBili-0.6
___ 07:40AM BLOOD Lipase-35
___ 07:40AM BLOOD Albumin-4.7
___ 07:52AM BLOOD Lactate-1.2

___:
EXAMINATION:  CT ABDOMEN AND PELVIS WITH CONTRAST 
    
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.
There is no evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation
throughout.  There is no evidence of focal lesions.  There is no
evidence of intrahepatic or extrahepatic biliary dilatation.  
The
gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without
evidence of focal lesions or pancreatic ductal dilatation.  
There
is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout,
without evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal
nephrogram.  There is no evidence of focal renal lesions or
hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops
demonstrate normal caliber, wall thickness, and enhancement
throughout.  There is focal inflammatory changes in the right
lower quadrant abutting the lateral aspect 
of the ascending colon and cecum.  Underlying colon is notable
for focal wall thickening and a prominent fecolith within its
lumen.  Possible diverticulum is noted (02:49).  The appendix is
seen in close proximity to the inflammation and is mildly
thickened though likely secondary.  There is no visualized 
appendicolith. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 

There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.

  
VASCULAR: There is no abdominal aortic aneurysm.  Mild
atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute
fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal
limits. 
  
IMPRESSION:  
  
Inflammation in the right lower quadrant abutting the cecum and
ascending colon, most likely due to focal colonic inflammation,
potentially focal colitis or alternatively potentially
diverticulitis.  There is inflammation of the appendix as well
which is located in this region but this is felt to be 
most likely secondary. 

Abdominal ultrasound ___:
 
IMPRESSION:  
  
Normal abdominal ultrasound. Hyperechoic shadowing focus in the
right lower quadrant with adjacent heterogeneous appearance of
the fat, see subsequent CT for additional details. 

 
Brief Hospital Course:
Assessment and Plan:
___ year old male w/PMH of gastritis and COPD presenting with
RLQ/RUQ pain with CT findings concerning for colitis or
diverticulitis that improved with initiation of antibiotics.

#Abdominal pain: Likely related to diverticulitis seen on CT. 
Evaluated by surgery for possible appendicitis but surgical team 
did not feel he had appendicitis and felt diverticulitis and 
constipation more likely. He was discharged with on oral 
antibiotics to follow-up with his PCP and with GI referral to 
consider colonoscopy. 
-continue IV Ciprofloxacin/Flagyl 10 day course through ___
-GI referral made for possible colonoscopy 
-Discharged with bowel regimen for possible contribution from 
constipation per surgery team. 

#Miscroscopic Hematuria- UA with trace blood and 14 RBCs, no 
leuk/nitrite/bacteria; urine culture sterile. Will need repeat 
UA and possible urologic evaluation
-repeat UA/Urologic eval 

#H.pylori positive on endoscopy ___ with esophagitis and 
gastritis noted.given patient did not obtain proper therapy 
(took once daily). Patient may need to repeat therapy for H. 
Pylori eradication but will defer to PCP/GI team. 
-Consider retreating for H. Pylori
-GI f/u 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth q12 
Disp #*16 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*24 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 17.2 mg PO BID 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tab by mouth 
twice a day Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Diverticulitis
-Abdominal Pain

 
Discharge Condition:
Good
Alert oriented  x3
Fully ambulatory 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with abdominal pain and lab 
values concerning for infection. You had a CT scan of your 
abdomen that showed possible infection in your colon 
(diverticulitis). We had the surgery team see you given concern 
for appendicitis (infection of your appendix and need for 
possible removal of your appendix). Ultimately they did not feel 
you had this. You improved on antibiotics. We also increased 
your stool softners (laxatives) to help with constipation. When 
you leave the hospital you should continue antibiotics for an 
additional 8 days. You should see your primary care doctor and ___ 
have referred you to a GI doctor as well 
(Gastroenterologist/Abdomen doctor). 
 
Followup Instructions:
___